US09290476B2
tert-Butyl 4-(1-methyl-1H-imidazole-5-carbonyl)piperidine-1-carboxylate
A homogeneous solution of tert-butyl 4-(hydroxy(1-methyl-1H-imidazol-5-yl)methyl)piperidine-1-carboxylate (32.2 g, 109 mmol; Intermediate 42, step a) in dioxane (436 mL) was treated with MnO2 (47.6 g, 547 mmol) and stirred at 100° C. under air overnight (17 hours). Since the reaction was only ˜50% complete by NMR, the reaction was cooled to room temperature and additional MnO2 was added (48.0 g, 552 mmol) and the reaction stirred under air at 100−° C. for 6.5 hours, then at room temperature for 18 days, then filtered through a pad of Celite® and the black filter cake washed with EtOAc. The crude filtrate was treated with a third portion of MnO2 (28.5 g, 327 mmol) and stirred at room temperature overnight. The reaction was then filtered as above and concentrated to provide the crude title compound as a clear dark yellow oil. This was flash chromatographed with an EtOAc to 50% acetone/EtOAc gradient to provide the title compound as a clear dark yellow oil.

reactant | tert-butyl 4-(hydroxy(1-methyl-1H-imidazol-5-yl)methyl)piperidine-1-carboxylate | OC(C1CCN(CC1)C(=O)OC(C)(C)C)C1=CN=CN1C | C15H25N3O3
solvent | dioxane | 436 mL | O1CCOCC1 | C4H8O2
catalyst | MnO2 | 547 mmol, 47.6 g | O=[Mn]=O
catalyst | MnO2 | 327 mmol, 28.5 g | O=[Mn]=O
product | tert-Butyl 4-(1-methyl-1H-imidazole-5-carbonyl)piperidine-1-carboxylate | CN1C=NC=C1C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C15H23N3O3
